US09163008B2
A mixture of the (3S,4S)-pyrrolidine-3,4-diol hydrochloride (0.773 g, 5.54 mmol), methyl 2,6-dichloropyrimidine-4-carboxylate (1.038 g, 5.01 mmol), and iPr2NEt (2.00 mL, 11.5 mmol) in acetonitrile (25 mL) was heated at 50° C. for 3 h. The reaction mixture was evaporated in vacuo and the residue chromatographed over silica gel with 25-75% acetone in hexanes. The product fractions were evaporated in vacuo to give methyl 2-chloro-6-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)pyrimidine-4-carboxylate as a light tan powder (1.132 g, 4.14 mmol, 83% yield). LC/MS: m/z=274.2 [M+H]+.

reactant | (3S,4S)-pyrrolidine-3,4-diol hydrochloride | 5.54 mmol, 0.773 g | Cl.N1C[C@@H]([C@H](C1)O)O
reactant | methyl 2,6-dichloropyrimidine-4-carboxylate | 5.01 mmol, 1.038 g | ClC1=NC(=CC(=N1)C(=O)OC)Cl | C6H4Cl2N2O2
reactant | iPr2NEt | 11.5 mmol, 2.00 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | methyl 2-chloro-6-((3S,4S)-3,4-dihydroxypyrrolidin-1-yl)pyrimidine-4-carboxylate | 4.14 mmol, 1.132 g, 83% yield | ClC1=NC(=CC(=N1)C(=O)OC)N1C[C@@H]([C@H](C1)O)O | C10H12ClN3O4
